US07435837B2
Treatment of (±)-3-(3-tert-butyl-2-hydroxyphenyl)-2-hydroxypropyl 4-methylbenzenesulfonate (14.66 g, 0.039 mol) with triphenylphosphine (11.18 g, 0.043 mol) and diethylazodicarboxylate (7.42 g, 0.043 mol) generally according to the procedure described for Intermediate 5 afforded 12.48 g (89%) of (±)-(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a colorless oil. Anal. calcd. for C20H24O4S: C, 66.64; H, 6.71. Found: C, 66.28; H, 6.95.

reactant | (±)-3-(3-tert-butyl-2-hydroxyphenyl)-2-hydroxypropyl 4-methylbenzenesulfonate | 0.039 mol, 14.66 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C(=CC=C1)C(C)(C)C)O)O | C20H26O5S
reactant | triphenylphosphine | 0.043 mol, 11.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.043 mol, 7.42 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | (±)-(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 12.48 g, 89% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C(C)(C)C | C20H24O4S
